US09062092B2
Compound 31a: (S)-3-Methyl-2-[2,2,2-trifluoro-ethylideneamino]-butyric acid methyl ester
A solution of (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride (6.72 g, 40 mmol) in water (50 mL) was partitioned between saturated sodium hydrogen carbonate solution and dichloromethane. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated to afford (S)-2-amino-3-methyl-butyric acid methyl ester (40 mmol). A solution of (S)-2-amino-3-methyl-butyric acid methyl ester (40 mmol), 2,2,2-trifluoro-1-methoxy-ethanol (5.2 g, 3.8 mL, 40 mmol) and 4-toluenesulfonic acid hydrate (100 mg) in toluene (125 mL) was heated at reflux using a Dean-Stark apparatus for 3 h. The reaction mixture was cooled to room temperature and the solvent was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 10:1 to 5:1 to afford the title compound (4.79 g, 56%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.94 (d, J=7.1 Hz, 3H), 0.97 (d, J=7.1 Hz, 3H), 2.32-2.44 (m, 1H), 3.73-3.77 (m, 4H), 7.67 (q, J=3.3 Hz, 1H).

reactant | (S)-2-amino-3-methyl-butyric acid methyl ester | 40 mmol | COC([C@H](C(C)C)N)=O | C6H13NO2
reactant | 2,2,2-trifluoro-1-methoxy-ethanol | 40 mmol, 3.8 mL, 5.2 g | FC(C(O)OC)(F)F | C3H5F3O2
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-toluenesulfonic acid hydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (S)-3-Methyl-2-[2,2,2-trifluoro-ethylideneamino]-butyric acid methyl ester | 4.79 g, 56% | COC([C@H](C(C)C)N=CC(F)(F)F)=O | C8H12F3NO2
